US07157476B2
Ethyl 2-(4-amino-1,2,5-oxadiazol-3-yl)-1-isobutyl-1H-imidazole-4-carboxylate (I-80):
A mixture of 4-amino-N-isobutyl-1,2,5-oxadiazole-3-carboxamidine (18 mg, 0.1 mmol), ethyl bromopyruvate (28 μL, 0.2 mmol) and sodium bicarbonate (17 mg, 0.2 mmol) in iPrOH (1 mL) was microwaved for 20 minutes at 150° C. Crude reaction mixture was purified via preparative HPLC to afford the title compound as a white solid. MS 280.2 as M+1 peak. HPLC Method B Rt 3.5 min. 1HNMR (CDCl3) 7.65 (s, 1H); 5.65 (s, 2H); 5.32 (q, 2H); 4.2 (d, 2H); 2.1 (m, 1H); 1.35 (t, 3H); 0.91 (d, 6H).

reactant | 4-amino-N-isobutyl-1,2,5-oxadiazole-3-carboxamidine | 0.1 mmol, 18 mg | NC=1C(=NON1)C(=N)NCC(C)C | C7H13N5O
reactant | ethyl bromopyruvate | 0.2 mmol, 28 μL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | sodium bicarbonate | 0.2 mmol, 17 mg | C([O-])(O)=O.[Na+]
solvent | iPrOH | 1 mL | CC(C)O | C3H8O
product | Ethyl 2-(4-amino-1,2,5-oxadiazol-3-yl)-1-isobutyl-1H-imidazole-4-carboxylate | NC=1C(=NON1)C=1N(C=C(N1)C(=O)OCC)CC(C)C | C12H17N5O3
